US05811459
4-[3-(3-Benzyloxy-2-pyridyl)propyl)benzoic acid
Methyl 4-[3-(3-benzyloxy-2-pyridyl)propyl)benzoate (0.3 g, 0.83 mmol) was dissolved in EtOH (3 ml) and treated with 1N NaOH (1.66 ml). The reaction was stirred at ambient temperature for 18 hours. A solution of hydrochloric acid (1N, 1.66 ml) was added and the resulting precipitate was filted and recrystallised from ethanol to give the title product as a white solid (0.054 g).

reactant | Methyl 4-[3-(3-benzyloxy-2-pyridyl)propyl)benzoate | 0.83 mmol, 0.3 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CCCC1=CC=C(C(=O)OC)C=C1 | C23H23NO3
reactant | NaOH | 1N, 1.66 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.66 ml | Cl | ClH
solvent | EtOH | 3 ml | CCO | C2H6O
product | 4-[3-(3-Benzyloxy-2-pyridyl)propyl)benzoic acid | 0.054 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CCCC1=CC=C(C(=O)O)C=C1 | C22H21NO3
